US06380387B1
To a solution of 4-[(1,1-dimethylethoxy)carbonyl]amino-3-methylbenzyl alcohol (42.9 mmol, 10.18 g) in dichloromethane (85 mL) was added manganese dioxide (138 mmol, 12 g) and 4A molecular sieves (6 g) at room temperature. The reaction mixture was stirred for 76 h at room temperature and was filtered through a pad of celite washing with dichloromethane. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel chromatography using a Biotage (40m) column to obtain 7.82 g (77% yield) of 4-[[(1,1-dimethylethoxy)carbonyl]amino]-3-methylbenzaldehyde as a white solid: mp 109-111° C. EI-HRMS m/e calcd for C13H17NO3 (M+) 235.1208, found 235.1207.

reactant | 4-[(1,1-dimethylethoxy)carbonyl]amino-3-methylbenzyl alcohol | 42.9 mmol, 10.18 g | CC(C)(OC(=O)NC1=C(C=C(CO)C=C1)C)C | C13H19NO3
solvent | dichloromethane | 85 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 138 mmol, 12 g | [O-2].[O-2].[Mn+4]
product | 4-[[(1,1-dimethylethoxy)carbonyl]amino]-3-methylbenzaldehyde | 7.82 g, 77% yield | CC(C)(OC(=O)NC1=C(C=C(C=O)C=C1)C)C | C13H17NO3
